US09359359B2
To a solution of 3-(2-bromoethyl)-7-(4-chlorobenzyl)-1-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (110 mg, 0.192 mmol) in DMF (3 mL) was added dimethylamine hydrochloride (150 mg, 1.84 mmol), followed by potassium carbonate (100 mg, 0.725 mmol). The mixture was stirred at 40° C. for 16 h; then it was diluted with ethyl acetate and water. The phases were separated and the organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated. The residue was purified by preparative HPLC to give 7-(4-chlorobenzyl)-3-(2-(dimethylamino)ethyl)-1-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (15 mg, 13.3% yield) as white solid.

reactant | 3-(2-bromoethyl)-7-(4-chlorobenzyl)-1-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 0.192 mmol, 110 mg | BrCCN1C(N(C(C=2N(C(=NC12)OC1=CC(=CC=C1)OC(F)(F)F)CC1=CC=C(C=C1)Cl)=O)C)=O | C22H17BrClF3N4O4
reactant | dimethylamine hydrochloride | 1.84 mmol, 150 mg | Cl.CNC
reactant | potassium carbonate | 0.725 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-(4-chlorobenzyl)-3-(2-(dimethylamino)ethyl)-1-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 15 mg, 13.3% yield | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)C)=O)CCN(C)C)OC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C24H23ClF3N5O4
